US07166587B2
c) (S)—N—((S)-5-Acetyl-1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-hydroxy-propionamide
In an analogous manner to that described in Example 53 c), the condensation of (S)-5-acetyl-3-amino-1-methyl-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one hydrochloride with L-(+)-lactic acid yielded the title compound as a yellow foam; MS: m/e=306 (M+H)+.

reactant | (S)-5-acetyl-3-amino-1-methyl-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one hydrochloride | Cl.C(C)(=O)N1C2=C(N(C([C@H](C1)N)=O)C)C=CC=C2
reactant | L-(+)-lactic acid | C([C@@H](O)C)(=O)O | C3H6O3
product | (S)—N—((S)-5-Acetyl-1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-hydroxy-propionamide | C(C)(=O)N1C2=C(N(C([C@H](C1)NC([C@H](C)O)=O)=O)C)C=CC=C2 | C15H19N3O4
